US04148895
1-Phenyl-2-[4-(3,4,5-trimethoxy-benzoyl)-1-piperazinyl]-indole 3-carboxylic acid 4-methyl-piperazide
This compound was prepared from 2-chloro-1-phenyl-indole 3-carboxylic acid 4-methyl-piperazide and 3,4,5-trimethoxy benzoic acid piperazide in boiling diglym according to Examples 7, 40, 42 and 45. The yield of amorphous product amounted to 77% of the theoretical yield. The hydrochloride melted at 253°-255° C.

reactant | 2-chloro-1-phenyl-indole 3-carboxylic acid 4-methyl-piperazide | CN1CCN(CC1)C(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)Cl | C20H20ClN3O
reactant | 3,4,5-trimethoxy benzoic acid piperazide | COC=1C=C(C(=O)N2CCNCC2)C=C(C1OC)OC | C14H20N2O4
reactant | hydrochloride | Cl | ClH
product | 1-Phenyl-2-[4-(3,4,5-trimethoxy-benzoyl)-1-piperazinyl]-indole 3-carboxylic acid 4-methyl-piperazide | CN1CCN(CC1)C(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)N1CCN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | C34H39N5O5
